US04202901
4.7 g of 5-hydroxy-2-pyridinecarboxylic acid methyl ester is added to a stirred suspension of 1.30 g of sodium hydride (57% mineral oil dispersion) in 10 ml of dimethylformamide at room temperature while maintaining a nitrogen atmosphere. The mixture is stirred for 30 minutes and then is added a solution of 3.90 g of allyl bromide in 20 ml of dimethylformamide. The mixture is heated to 100° and maintained at 100° for 5 hours. Then the mixture is cooled, filtered and the filtrate evaporated to a residue. The residue is partitioned between water and methylene chloride, the layers are separated and the water layer is extracted with methylene chloride. The methylene layer is combined with the methylene extract, dried over anhydrous sodium sulfate and filtered. The filtrate is evaporated and the residue is distilled to yield 5-allyloxy-2-pyridinecarboxylic acid methyl ester boiling at 124°-130°/0.15 mm/Hg.

reactant | 5-hydroxy-2-pyridinecarboxylic acid methyl ester | 4.7 g | COC(=O)C1=NC=C(C=C1)O | C7H7NO3
reactant | sodium hydride | 1.30 g | [H-].[Na+]
reactant | allyl bromide | 3.90 g | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-allyloxy-2-pyridinecarboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)OCC=C | C10H11NO3
